US07135600B2
(i) 7-Bromoheptyl prop-2-ynyl ether
25% (w/w) aq. NaOH (700 ml) was added to a stirred mixture of propargyl alcohol (70 g), tetra-butyl ammonium bromide (3.5 g) and 1,7-dibromoheptane (322 g) maintaining the temperature below 30° C. The reaction mixture was heated at 60° C. for 5 hrs then allowed to cool to room temperature and stirred overnight. Diethyl ether (350 ml) and water (280 ml) were added, the mixture stirred and allowed to settle. The aqueous layer was extracted with diethyl ether (210 ml), the organic layers combined, dried (MgSO4). The solution was concentrated to give 280 g of crude material. 140 g Of the crude was purified by chromatography on Biotage (800 g) eluting with petroleum ether then petroleum ether:ethyl acetate (100:1 followed by 100:1.5) to give the title compound (49.6 g).

reactant | NaOH | 700 ml | [OH-].[Na+]
reactant | propargyl alcohol | 70 g | C(C#C)O | C3H4O
reactant | 1,7-dibromoheptane | 322 g | BrCCCCCCCBr | C7H14Br2
reactant | Diethyl ether | 350 ml | C(C)OCC | C4H10O
catalyst | tetra-butyl ammonium bromide | 3.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 280 ml | O | H2O
product | 7-Bromoheptyl prop-2-ynyl ether | 49.6 g | C(C#C)OCCCCCCCBr | C10H17BrO
